US04177257
3-Carboxythianthrene-5,5,10-trioxide
3-Carboxythianthrene-5,5-dioxide ((60 mg), acetic acid acid (2.0 ml) and 30% hydrogen peroxide (0.10 ml) were boiled under reflux for 10 mins., filtered and allowed to stand overnight at 0° C. 3-Carboxythianthrene-5,5,10-trioxide crystallised out, was filtered off and dried at 156° C. at 2mm. Hg, m.p. 340°-343° C.

reactant | 3-Carboxythianthrene-5,5-dioxide | C(=O)(O)C=1C=CC=2SC3=CC=CC=C3S(C2C1)(=O)=O | C13H8O4S2
reactant | hydrogen peroxide | 0.10 ml | OO | H2O2
solvent | acetic acid | 2.0 ml | C(C)(=O)O | C2H4O2
product | 3-Carboxythianthrene-5,5,10-trioxide | C(=O)(O)C=1C=CC=2S(C3=CC=CC=C3S(C2C1)(=O)=O)=O | C13H8O5S2
